US04286095
22.5 Ml of benzyl bromide was added dropwise to a stirred solution of 32.3 g of 3,4-epoxy-4-phenylpiperidine and 38.1 ml of triethylamine in 254 ml of benzene. A precipitate appeared during the addition. The whole reaction mixture was then stirred at room temperature for three hours. The residual solid was removed by filtration and the solvent evaporated to give 53.4 g of 1-benzyl-3,4-epoxy-4-phenyl-piperidine.

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3,4-epoxy-4-phenylpiperidine | 32.3 g | O1C2CNCCC21C2=CC=CC=C2 | C11H13NO
reactant | triethylamine | 38.1 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 254 ml | C1=CC=CC=C1 | C6H6
product | 1-benzyl-3,4-epoxy-4-phenyl-piperidine | 53.4 g | C(C1=CC=CC=C1)N1CC2C(CC1)(C1=CC=CC=C1)O2 | C18H19NO
